US04107170
To a solution of 43.0 g. (1.0 mole) of ethyleneimine and 60.0 g. (0.5 mole) of styrene oxide is added 3 drops of water and 0.2 g. of potassium hydroxide. The mixture is heated at reflux for 11/2 hours. Distillation of the excess ethyleneimine from the crude product gives 55.6 g. (68%) of the crystalline product. Recrystallization gives pure dl-α-phenyl-1-aziridineethanol with melting point 74°-76° C.

reactant | ethyleneimine | 1.0 mole | C1CN1 | C2H5N
reactant | styrene oxide | 0.5 mole | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | potassium hydroxide | [OH-].[K+]
catalyst | water | 3 drops | O | H2O
product | α-phenyl-1-aziridineethanol | C1(=CC=CC=C1)C(CN1CC1)O | C10H13NO
